US03966760
A. 1,2-Bis(6-Nitroveratrylidene)ethylenediamine
A heated suspension of 6-nitroveratraldehyde (168.8 g, 0.8 moles) and 1200 ml of ethanol was treated with ethylenediamine (24 g, 0.4 moles) and 200 ml of ethanol. The mixture was nearly in solution when a solid precipitated. Ethanol (500 ml) was added. The suspension was refluxed for 1.5 hrs. The resulting solid was filtered and washed with ethanol to yield 150 g (84%) of the product.

reactant | 6-nitroveratraldehyde | 0.8 moles, 168.8 g | [N+](=O)([O-])C1=CC(=C(C=C1C=O)OC)OC | C9H9NO5
reactant | ethylenediamine | 0.4 moles, 24 g | C(CN)N | C2H8N2
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 1200 ml | C(C)O | C2H6O
product | 1,2-Bis(6-Nitroveratrylidene)ethylenediamine | 150 g, 84% | [N+](=O)([O-])C1=CC(=C(C=C1C=C(C(N)=CC1=CC(OC)=C(OC)C=C1[N+](=O)[O-])N)OC)OC | C20H22N4O8
